US07465726B2
5-amino-3-chloroindazole
A mixture of 5-aminoindazole (1.373 g, 10.00 mmol) and N-chlorosuccinimide (1.381 g, 10.14 mmol) in methylene chloride (50 mL) was sonicated at rt for 30 min. The brown mixture was then stirred overnight at rt. The suspension was diluted with CH2Cl2 to ≈100 mL, water and aq. K2CO3 solution were added, and the insoluble brown material was filtered off and washed with CH2Cl2 and water. The layers of the filtrate were separated; the organic layer was washed with water (3×) and brine and dried over MgSO4. The dried solution was filtered through a pad of silica gel, washing with 5% MeOH in CH2Cl2 until no more product eluted as indicated by TLC. Concentrating and drying in vacuo gave the title compound as yellow solid. MS (ES+): m/z 168.2/170.2 (100/37) [MH+]. HPLC: tR=2.1 min (ZQ2000, polar—5 min). 1H NMR (CDCl3, 400 MHz): δ=5.06 (s, 2H), 6.96 (d, J=8.5 Hz, 1H), 7.27 (d, J=8.5 Hz, 1H), 7.78 (s, 1H), 12.95 (brs, 1H).

reactant | 5-aminoindazole | 10.00 mmol, 1.373 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | N-chlorosuccinimide | 10.14 mmol, 1.381 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-3-chloroindazole | NC=1C=C2C(=NNC2=CC1)Cl | C7H6ClN3
